US03963777
1 g of crude 7-chloro-1-(2,3-epoxypropyl)-5-(2-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one is dissolved in 15 ml of methanol and 15 ml of 2 N sulfuric acid and stirred for 1 hour at 25°C. Then the solution is made alkaline with 3 N sodium hydroxide and the methanol is carefully distilled on a rotary evaporator. The aqueous phase is extracted with ethyl acetate and the ethyl acetate solution is washed with water, dried over magnesium sulfate, filtered and concentrated. By chromatography of the residue on silica gel with ethyl acetate/methanol (9:1) there is isolated 7-chloro-1-(2,3-dihydroxypropyl)-5-(2-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one of melting point 116°-117°C.

reactant | 7-chloro-1-(2,3-epoxypropyl)-5-(2-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 1 g | ClC=1C=CC2=C(C(=NCC(N2CC2CO2)=O)C2=C(C=CC=C2)F)C1 | C18H14ClFN2O2
reactant | sulfuric acid | 2 N, 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 3 N | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 7-chloro-1-(2,3-dihydroxypropyl)-5-(2-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one | ClC=1C=CC2=C(C(=NCC(N2CC(CO)O)=O)C2=C(C=CC=C2)F)C1 | C18H16ClFN2O3
